US07875645B2
Butyl-[1-(2,6-difluoro-3-methoxy-phenyl)-meth-(E)-ylidene]-amine was prepared from 2,6-difluoro-3-methoxybenzaldehyde, N-butylamine and p-toluenesulphonic acid in analogy to Example 186a): red oil; MS (ISP): 228.4 ([M+H]+, 100%).

reactant | 2,6-difluoro-3-methoxybenzaldehyde | FC1=C(C=O)C(=CC=C1OC)F | C8H6F2O2
reactant | N-butylamine | C(CCC)N | C4H11N
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Butyl-[1-(2,6-difluoro-3-methoxy-phenyl)-meth-(E)-ylidene]-amine | C(CCC)/N=C/C1=C(C(=CC=C1F)OC)F | C12H15F2NO
